US08377937B2
A mixture of benzyl 4-((2-(tert-butoxycarbonylamino)ethyl)(4-chlorobenzyl)carbamoyl)piperazine-1-carboxylate (200 mg, 0.38 mmol) in a KOH/MeOH/H2O (10 mL; prepared as a stock solution using 10 g KOH, 50 mL MeOH and 25 mL H2O) solution of was stirred for 2 hours at 80° C. The reaction was extracted with EtOAc, dried over NaSO4 and concentrated under reduced pressure to yield tert-butyl 2-(N-(4-chlorobenzyl)piperazine-1-carboxamido)ethylcarbamate (132 mg, 89%). MS (ESI) m/e (M+H+) 397.

reactant | benzyl 4-((2-(tert-butoxycarbonylamino)ethyl)(4-chlorobenzyl)carbamoyl)piperazine-1-carboxylate | 0.38 mmol, 200 mg | C(C)(C)(C)OC(=O)NCCN(C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)Cl | C27H35ClN4O5
reactant | KOH MeOH H2O | [OH-].[K+].CO.O
reactant | KOH | 10 g | [OH-].[K+]
reactant | MeOH | 50 mL | CO | CH4O
solvent | H2O | 25 mL | O | H2O
product | tert-butyl 2-(N-(4-chlorobenzyl)piperazine-1-carboxamido)ethylcarbamate | 132 mg, 89% | ClC1=CC=C(CN(C(=O)N2CCNCC2)CCNC(OC(C)(C)C)=O)C=C1 | C19H29ClN4O3
